US04962110
(R)-6-[4-(1,4-Dihydro-4-oxo-2-pyrimidinylamino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
A stirred mixture of (R)-6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone and 2-methylthiouracil in dry pyridine are heated together to afford the title compound.

reactant | (R)-6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | NC1=CC=C(C=C1)C=1[C@@H](CC(NN1)=O)C | C11H13N3O
reactant | 2-methylthiouracil | CSC1=NC=CC(=O)N1 | C5H6N2OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (R)-6-[4-(1,4-Dihydro-4-oxo-2-pyrimidinylamino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | O=C1N=C(NC=C1)NC1=CC=C(C=C1)C=1[C@@H](CC(NN1)=O)C | C15H15N5O2
